US06919362B2
Step A: 4-(2-Chloroethoxy)benzaldehyde
Dissolve 4-hydroxybenzaldehyde (0.082 mol) in dimethylformamide (100 ml) and add potassium carbonate (0.164 mol) and 1-bromo-2-chloroethane (0.246 mol). Stir magnetically for five days at ambient temperature, then hydrolyse the reaction mixture in 500 ml of water and render alkaline with 3 g of sodium hydroxide pellets. Extract twice with 50 ml of ether each time. Dry the organic phase over magnesium sulphate and remove the ether by evaporation under reduced pressure. Purify the resulting oil by flash chromatography using a 9/1 cyclohexane/ether mixture as eluant. Subsequently, remove the mixture of solvents by evaporation under reduced pressure and crystallise the resulting yellow oil and store it in a dessicator.

reactant | 4-hydroxybenzaldehyde | 0.082 mol | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 0.164 mol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 0.246 mol | BrCCCl | C2H4BrCl
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 4-(2-Chloroethoxy)benzaldehyde | ClCCOC1=CC=C(C=O)C=C1 | C9H9ClO2
